US06884821B1
39.1 g of methyl 2-benzyloxy-5-formyl-benzoate was dissolved in 300 ml methanol. 60 ml trimethyl orthoformate and 2 g of p-toluenesulffonic acid were added thereto, followed by heating under reflux for 4 hours. After cooling to room temperature, 5 ml triethylamine was added thereto, and the mixture was evaporated. The residue was dissolved in ethyl acetate, successively washed with water and saturated aqueous sodium bicarbonate solution, dried over anhydrous magnesium sulfate and the solvent was evaporated, to give 39.08 g of methyl 2-(benzyloxy)-5-(dimethoxymethyl)benzoate.

reactant | methyl 2-benzyloxy-5-formyl-benzoate | 39.1 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C=C1)C=O | C16H14O4
reactant | trimethyl orthoformate | 60 ml | C(OC)(OC)OC | C4H10O3
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 300 ml | CO | CH4O
product | methyl 2-(benzyloxy)-5-(dimethoxymethyl)benzoate | 39.08 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=C(C=C1)C(OC)OC | C18H20O5
